Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
I[CH3:1].[CH3:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH:8]([CH2:9][NH:10][c:11]2[n:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]3[s:19]2)[CH2:20][CH2:21]1>>[CH3:1][N:10]([CH2:9][CH:8]1[CH2:7][CH2:6][N:5]([C:3]([CH3:2])=[O:4])[CH2:21][CH2:20]1)[c:11]1[n:12][c:13]2[cH:14][cH:15][cH:16][cH:17][c:18]2[s:19]1,[CH3:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH:8]([CH2:9][NH:10][c:11]2[n:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]3[s:19]2)[CH2:20][CH2:21]1.[I:101][CH3:1]>>[CH3:1][N:10]([CH2:9][CH:8]1[CH2:7][CH2:6][N:5]([C:3]([CH3:2])=[O:4])[CH2:21][CH2:20]1)[c:11]1[n:12][c:13]2[cH:14][cH:15][cH:16][cH:17][c:18]2[s:19]1,SN2,"[(10, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[C:3]1([OH:4])[CH2:5][CH2:6][N:7]([CH2:8][c:9]2[cH:10][c:11]([Br:12])[cH:13][cH:14][c:15]2[O:16][CH2:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1.[OH:27][CH2:28][CH2:29][N:30]1[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]1>>[C:1](=[O:2])([C:3]1([OH:4])[CH2:5][CH2:6][N:7]([CH2:8][c:9]2[cH:10][c:11]([Br:12])[cH:13][cH:14][c:15]2[O:16][CH2:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1)[N:33]1[CH2:32][CH2:31][N:30]([CH2:29][CH2:28][OH:27])[CH2:35][CH2:34]1,[OH:101][C:1](=[O:2])[C:3]1([OH:4])[CH2:5][CH2:6][N:7]([CH2:8][c:9]2[cH:10][c:11]([Br:12])[cH:13][cH:14][c:15]2[O:16][CH2:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1.[OH:27][CH2:28][CH2:29][N:30]1[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([C:3]1([OH:4])[CH2:5][CH2:6][N:7]([CH2:8][c:9]2[cH:10][c:11]([Br:12])[cH:13][cH:14][c:15]2[O:16][CH2:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1)[N:33]1[CH2:32][CH2:31][N:30]([CH2:29][CH2:28][OH:27])[CH2:35][CH2:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 2], 2), (303, 33.1), ([33.1, 33], 33), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]1[CH:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[CH2:8][O:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]21>>[CH2:1]1[CH:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[CH2:8][O:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]21,[O:101]=[C:1]1[CH:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[CH2:8][O:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]21.[NH2:301][NH2:302].[H+:303].[OH-:304]>>[CH2:1]1[CH:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[CH2:8][O:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]21,Wolf_Kishner_reduction,"[(301, 1), ([1, 101], 303), (101, 301.1), ([301.1, 301], 301), (301, [301, 1]), ([1, 101], 101), ([301.1, 301], 301), (304, 302.1), ([302.1, 302], [302, 301]), ([301, 1], 1), (1, 304.1), ([304.1, 304], 304), (304, 302.1), ([302.1, 302], [302, 301]), ([301, 1], 1), (1, 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[cH:2][cH:3][c:4]2[c:5]([n:6]1)[CH2:7][N:8]([CH:9]1[CH2:10][O:11][CH2:12]1)[C:13]2=[O:14].[CH3:15][C:16]([CH3:17])([OH:18])[c:19]1[cH:20][c:21]([F:22])[c:23](-[c:24]2[cH:25][c:26]([C:27]([NH2:28])=[O:29])[c:30]([NH2:31])[s:32]2)[c:33]([F:34])[cH:35]1>>[c:1]1([NH:31][c:30]2[c:26]([C:27]([NH2:28])=[O:29])[cH:25][c:24](-[c:23]3[c:21]([F:22])[cH:20][c:19]([C:16]([CH3:15])([CH3:17])[OH:18])[cH:35][c:33]3[F:34])[s:32]2)[cH:2][cH:3][c:4]2[c:5]([n:6]1)[CH2:7][N:8]([CH:9]1[CH2:10][O:11][CH2:12]1)[C:13]2=[O:14],[CH3:15][C:16]([CH3:17])([OH:18])[c:19]1[cH:20][c:21]([F:22])[c:23](-[c:24]2[cH:25][c:26]([C:27]([NH2:28])=[O:29])[c:30]([NH2:31])[s:32]2)[c:33]([F:34])[cH:35]1.[Cl:101][c:1]1[cH:2][cH:3][c:4]2[c:5]([n:6]1)[CH2:7][N:8]([CH:9]1[CH2:10][O:11][CH2:12]1)[C:13]2=[O:14]>>[c:1]1([NH:31][c:30]2[c:26]([C:27]([NH2:28])=[O:29])[cH:25][c:24](-[c:23]3[c:21]([F:22])[cH:20][c:19]([C:16]([CH3:15])([CH3:17])[OH:18])[cH:35][c:33]3[F:34])[s:32]2)[cH:2][cH:3][c:4]2[c:5]([n:6]1)[CH2:7][N:8]([CH:9]1[CH2:10][O:11][CH2:12]1)[C:13]2=[O:14],SNAr(para),"[(31, 1), ([1, 6], [6, 5]), ([5, 4], [4, 13]), ([13, 14], 14), (14, [14, 13]), ([13, 4], [4, 5]), ([5, 6], [6, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
